US09212182B2
A RBF was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride (512.8 mg, 1.031 mmol), dichloromethane (1718 μl), and 3-aminoisoxazole (114 μl, 1.546 mmol) to give a thick suspension. Pyridine (3437 μl) was added relatively quickly, leading to thinner suspension. After 2 h, the mixture was concentrated in vacuo. The residue was partitioned between EtOAc and 2N aq. HCl. The layers were separated, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (50-g SNAP Ultra column, 0-50% 3:1 EtOAc/EtOH in heptane with 10% DCM) to give 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide (419.2 mg, 0.846 mmol, 82% yield) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ=11.74 (br. s., 1H), 8.74 (d, J=1.9 Hz, 1H), 8.47 (s, 1H), 8.29 (d, J=2.2 Hz, 1H), 7.90 (dd, J=2.2, 8.9 Hz, 1H), 7.72 (d, J=6.1 Hz, 1H), 7.62 (d, J=8.4 Hz, 1H), 6.98 (d, J=8.8 Hz, 1H), 6.48 (d, J=1.9 Hz, 1H), 3.74-3.71 (m, 3H), 3.32 (s, 3H). m/z (ESI) 495.0 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride | 1.031 mmol, 512.8 mg | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)Cl)=O)OC | C15H9BrClFN2O4S
reactant | dichloromethane | 1718 μl | ClCCl | CH2Cl2
reactant | 3-aminoisoxazole | 1.546 mmol, 114 μl | NC1=NOC=C1 | C3H4N2O
solvent | Pyridine | 3437 μl | N1=CC=CC=C1 | C5H5N
product | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide | 0.846 mmol, 419.2 mg, 82% yield | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C18H12BrFN4O5S
